US08067613B2
tert-butyl 2-(5-(methoxycarbonyl)thiophen-2-yl)-1H-pyrrole-1-carboxylate
A mixture of methyl 5-bromothiophene-2-carboxylate (4 g), 1-(tert-butoxycarbonyl)pyrrole-2-boronic acid (3.8 g), dichlorobis (triphenylphosphine)palladium(II) (1.2 g) and 2M sodium carbonate solution (18 mL) in DME/water/ethanol (7/3/2, 200 mL) was heated at 60° C. for 4 hours, cooled and partitioned between ethyl acetate and brine. The extract was washed with water and concentrated, and the concentrate was flash chromatographed on silica gel with 5-40% ethyl acetate in hexane.

reactant | methyl 5-bromothiophene-2-carboxylate | 4 g | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
reactant | 1-(tert-butoxycarbonyl)pyrrole-2-boronic acid | 3.8 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | sodium carbonate | 2M, 18 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane water ethanol | 200 mL | COCCOC.O.C(C)O
catalyst | dichlorobis (triphenylphosphine)palladium(II) | 1.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 2-(5-(methoxycarbonyl)thiophen-2-yl)-1H-pyrrole-1-carboxylate | COC(=O)C1=CC=C(S1)C=1N(C=CC1)C(=O)OC(C)(C)C | C15H17NO4S
